US08106070B2
N-{1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}-methanesulfonamide
Trifluoroacetic acid (1 mL) was added to neat tert-butyl 4-(2,2-dimethylbutyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-[(methylsulfonyl)amino]ethyl}-1H-imidazole-1-carboxylate. After stirring at ambient temperature for 1 h, the reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and 10% aqueous sodium hydroxide. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Preparatory plate chromatography eluting with 100% ethyl acetate afforded the title compound. (M+H) found: 445.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(2,2-dimethylbutyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-[(methylsulfonyl)amino]ethyl}-1H-imidazole-1-carboxylate | CC(CC=1N=C(N(C1)C(=O)OC(C)(C)C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)NS(=O)(=O)C)(CC)C | C28H37FN4O4S
product | N-{1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}-methanesulfonamide | CC(CC=1N=C(NC1)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)NS(=O)(=O)C)(CC)C | C23H29FN4O2S
